US04948887
(1) 2,4-dichloro-3-nitrobenzoic acid
To a solution of 25 ml of fuming nitric acid and 20 ml of sulfuric acid, 25 g of 2,4-dichlorobenzoic acid was gradually added. After completion of the heat generation, the reaction mixture was poured into ice water. Precipitated solid was washed with water and dried to obtain 23.0 g of the desired product.

reactant | nitric acid | 25 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2,4-dichlorobenzoic acid | 25 g | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 2,4-dichloro-3-nitrobenzoic acid | 23.0 g | ClC1=C(C(=O)O)C=CC(=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
